US04709048
(f) Preparation of (S)-2-(3,3-Diphenyl-2-propenyl)-2-ethylcyclohexanone
A solution of (S)-6-ethyl-α,α-diphenyl-1,4-dioxaspiro[4.5]decane-6-propanol (175 g) in 1 L of acetic acid containing 50 mL of water was refluxed for 3.5 hours. Most of the acetic acid was removed on a rotary evaporator, and the oily residue was poured into 300 mL of water. It was extracted with ether (2×300 mL) and the extracts were combined. They were washed with 1M sodium hydroxide (2×150 mL, first wash neutral, second wash basic) and brine (300 mL). Concentration afforded 140 g of cloudy brown oil.

reactant | (S)-6-ethyl-α,α-diphenyl-1,4-dioxaspiro[4.5]decane-6-propanol | 175 g | C(C)[C@@]1(C2(OCCO2)CCCC1)CCC(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H32O3
reactant | water | O | H2O
solvent | acetic acid | 1 L | C(C)(=O)O | C2H4O2
product | (S)-2-(3,3-Diphenyl-2-propenyl)-2-ethylcyclohexanone | C1(=CC=CC=C1)C(=CC[C@]1(C(CCCC1)=O)CC)C1=CC=CC=C1 | C23H26O
